US07241791B2
7-chloro-3-(2,4-dimethoxyphenyl)-1H-indazole
Prepared according to Method D Step A from (2,4-dimethoxyphenyl)[2-fluoro-3-chlorophenyl]methanone (1.20 g, 4.1 mmol), hydrazine hydrate (1.61 mL, 51.7 mmol) and DMAP (0.632 g, 5.17 mmol) to give the product (0.618 g) as a yellow solid.

reactant | (2,4-dimethoxyphenyl)[2-fluoro-3-chlorophenyl]methanone | 4.1 mmol, 1.20 g | COC1=C(C=CC(=C1)OC)C(=O)C1=C(C(=CC=C1)Cl)F | C15H12ClFO3
reactant | hydrazine hydrate | 51.7 mmol, 1.61 mL | O.NN
catalyst | DMAP | 5.17 mmol, 0.632 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 7-chloro-3-(2,4-dimethoxyphenyl)-1H-indazole | 0.618 g | ClC=1C=CC=C2C(=NNC12)C1=C(C=C(C=C1)OC)OC | C15H13ClN2O2
